US09428503B2
Intermediate A1: 8-(6-Fluoropyridin-3-yl)-3-methyl-1-(oxan-4-yl)imidazo[5,4-c]quinolin-2-one
Monopalladium(IV) disodium tetrachloride (0.975 g, 3.31 mmol) was added to 8-bromo-3-methyl-1-(oxan-4-yl)imidazo[5,4-c]quinolin-2-one (60.0 g, 165.64 mmol), (6-fluoropyridin-3-yl)boronic acid (25.7 g, 182.21 mmol), K2CO3 (68.7 g, 496.93 mmol) and 3-(di-tert-butylphosphino)propane-1-sulfonic acid (0.445 g, 1.66 mmol) in 1,4-dioxane (400 mL) and water (100 mL) at r.t. under air. The resulting mixture was stirred at 80° C. for 16 h. The reaction mixture was dilated with water and the precipitate collected by filtration, washed with water (200 mL) and dried under vacuum. The resulting solid was dissolved with DCM (18 L) and the mixture filtered through celite to remove Palladium residues. The solvent was removed under reduced pressure to afford the desired material (60.0 g, 96%) as a white solid, which was used without further purification, NMR Spectrum: 1H NMR (400 MHz, CDCl3) δ 1.85-2.01 (2H, m), 2.86-3.02 (2H, m), 3.57-3.68 (5H, m), 4.16-4.31 (2H, m), 5.11 (1H, t), 6.98-7.19 (1H, m), 7.83 (1H, dd), 8.16 (1H, td), 8.30 (1H, dd), 8.50 (1H, s), 8.60 (1H, s), 8.77 (1H, s). Mass Spectrum: m/z (ES+)[M+H]+=379.2.

reactant | 8-bromo-3-methyl-1-(oxan-4-yl)imidazo[5,4-c]quinolin-2-one | 165.64 mmol, 60.0 g | BrC1=CC=2C3=C(C=NC2C=C1)N(C(N3C3CCOCC3)=O)C | C16H16BrN3O2
reactant | (6-fluoropyridin-3-yl)boronic acid | 182.21 mmol, 25.7 g | FC1=CC=C(C=N1)B(O)O | C5H5BFNO2
reactant | K2CO3 | 496.93 mmol, 68.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 400 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
catalyst | Monopalladium(IV) disodium tetrachloride | 3.31 mmol, 0.975 g | [Cl-].[Cl-].[Cl-].[Cl-].[Na].[Na].[Pd+4]
catalyst | 3-(di-tert-butylphosphino)propane-1-sulfonic acid | 1.66 mmol, 0.445 g | C(C)(C)(C)P(CCCS(=O)(=O)O)C(C)(C)C | C11H25O3PS
product | 8-(6-Fluoropyridin-3-yl)-3-methyl-1-(oxan-4-yl)imidazo[5,4-c]quinolin-2-one | 60.0 g, 96% | FC1=CC=C(C=N1)C1=CC=2C3=C(C=NC2C=C1)N(C(N3C3CCOCC3)=O)C | C21H19FN4O2
